US06130346
A reaction was conducted as described in Example 6 except that benzoic acid was replaced with 105 mmol of 2,2-bis(4-hydroxyphenyl)-1,1,1,3,3,3-hexafluoropropane and the amount of PGE was 200 mmol. Desired 2,2-bis[4-(2-hydroxy-3-phenoxypropyloxy)phenyl[-1,1,1,3,3,3-hexafluoropropane was formed in analytical yield of 89% and isolated in a yield of 83%.

reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2,2-bis(4-hydroxyphenyl)-1,1,1,3,3,3-hexafluoropropane | 105 mmol | OC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)O | C15H10F6O2
product | 1,1,1,3,3,3-hexafluoropropane | yield of 89% | FC(CC(F)(F)F)(F)F | C3H2F6
